US07452886B2
To a solution of 338 mg (1.3 mmoles) of phthalhydrazide in 20 ml of DMF, 252 mg (1.83 mmoles) of K2CO3 and 400 mg (1.30 mmoles) of 6-Bromomethyl-7-(2,2-dimethyl-propyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile are added successively and the mixture is stireed for 18 hours at ambient temperature. The reaction mixture is quenched with ice-water and extracted with AcOEt. The combined extracts are washed with H2O, brine and dried over MgSO4. Chromatography on silica gel (eluent: n-Hexane:AcOEt=1:2) give 412 mg of desired 7-(2,2-dimethyl-propyl)-6-(1,4-dioxo-3,4-dihydro-1H-phthalazin-2-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile in 70% yield. The obtained product is treated with MeJ under the same conditionto give N-methylated compound. To a solution of 295 mg (0.76 mmoles) of 7-(2,2-dimethyl-propyl)-6-(1,4-dioxo-3,4-dihydro-1H-phthalazin-2-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile in 20 ml of DMF, 0.066 ml (1.06 mmoles) of MeJ and 168 mg (1.22 mmoles) of K2CO3 are added successively and the mixture is stireed for 18 hours at ambient temperature. The reaction mixture is quenched with ice-water and extracted with AcOEt. The combined extracts are washed with H2O, brine and dried over MgSO4. Chromatography on silica gel (eluent: n-Hexane:AcOEt=1:4) give 238 mg of 7-(2,2-Dimethyl-propyl)-6-(3-methyl-1,4dioxo-3,4-dihydro-1H-phthalazin-2-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile in 78% yield.

reactant | 7-(2,2-dimethyl-propyl)-6-(1,4-dioxo-3,4-dihydro-1H-phthalazin-2-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile | 0.76 mmoles, 295 mg | CC(CN1C(=CC2=C1N=C(N=C2)C#N)CN2C(C1=CC=CC=C1C(N2)=O)=O)(C)C | C21H20N6O2
reactant | K2CO3 | 1.22 mmoles, 168 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 7-(2,2-Dimethyl-propyl)-6-(3-methyl-1,4dioxo-3,4-dihydro-1H-phthalazin-2-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile | 238 mg, 78% yield | CC(CN1C(=CC2=C1N=C(N=C2)C#N)CN2C(C1=CC=CC=C1C(N2C)=O)=O)(C)C | C22H22N6O2
